US04237294
3,8-Bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}ethyl]-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane (Compound No. 1)
A mixture of 2.9 g of 3,8-bis(2-hydroxyethyl)-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro [4.5]decane, 6.4 g of methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate and 0.3 g of sodium methoxide was refluxed for 8 hours in 300 ml of xylene, while removing 250 ml of xylene together with methanol formed in situ. After completion of the reaction, xylene was evaporated from the reaction under reduced pressure and the resulting residue was recrystallized from ligroin, giving the desired compound in the form of white crystals melting at 178°-179° C.

reactant | 3,8-bis(2-hydroxyethyl)-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro [4.5]decane | 2.9 g | OCCN1C(NC2(C1=O)CC(N(C(C2)(C)C)CCO)(C)C)=O | C15H27N3O4
reactant | methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | 6.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | sodium methoxide | 0.3 g | C[O-].[Na+]
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3,8-Bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}ethyl]-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCN1C(NC2(C1=O)CC(N(C(C2)(C)C)CCOC(CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)(C)C)=O | C49H75N3O8
